US05550240
A solution of 10 g of 2,6-dichloro-4-(1,1-dimethylethylamino)pyrimidine in 50 ml of 1-amino-1,1-dimethylethane is heated in a closed tube at 130° C. for 15 hours. Thereafter, the reaction mixture is evaporated and the residue is distributed between 150 ml of chloroform and 30 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 10 ml of water each, then dried and evaporated. The evaporation residue is subjected to chromatography on a silica gel column by using a 9:1 mixture of hexane/ethyl acetate as eluent to give 6-chloro-2,4-bis(1,1-dimethylethylamino) pyrimidine which is recrystallized from hexane to result in a yield of 9.92 g (85.1%), m.p.: 125°-127° C. By continuing the elution with a 4:1 mixture of hexane/ethyl acetate 2-chloro-4,6-bis(1,1-dimethylethylamino)pyrimidine as a more polar product is obtained which is recrystallized from hexane to result in a yield of 0.49 g (4.2%), m.p.: 132°-135° C.

reactant | 2,6-dichloro-4-(1,1-dimethylethylamino)pyrimidine | 10 g | ClC1=NC(=CC(=N1)NC(C)(C)C)Cl | C8H11Cl2N3
solvent | 1-amino-1,1-dimethylethane | 50 ml | NC(C)(C)C | C4H11N
product | 6-chloro-2,4-bis(1,1-dimethylethylamino) pyrimidine | ClC1=CC(=NC(=N1)NC(C)(C)C)NC(C)(C)C | C12H21ClN4
